US07619095B2
Sodium hydride (7.5 g) is added to Tetrahydrofuran (125 ml) at ambient temperature under Nitrogen atmosphere and stirred for 10-30 minutes. Diethyl oxalate (20 ml) is added to reaction mixture and at 25-45° C. and stirred the solution for 15 minutes. 2-Methyl-3-nitro-N, N-Di-n-propyl phenyl ethyl amine free base as generated above is added to reaction mixture and stirred slowly under nitrogen atmosphere at 25-30° C. for 36-72 hours. After completion of reaction THF is distilled out from the reaction mixture under vacuum at 35-70° C. and Ethyl acetate (250 ml) is added to reaction mass. Further, 3N HCl (approx. 30 ml) is added to adjust the pH of reaction mass to 7.5-8.0. Organic layer is separated out and dried over sodium sulphate. Ethyl acetate is distilled out to obtain Ethyl-6-(2-di-n-propylaminoethyl)-2-nitrophenylpyruvate.

reactant | Sodium hydride | 7.5 g | [H-].[Na+]
reactant | Diethyl oxalate | 20 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-Methyl-3-nitro-N, N-Di-n-propyl phenyl ethyl amine | CC1=C(C=CC=C1[N+](=O)[O-])CCN(CCC)CCC | C15H24N2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | Ethyl-6-(2-di-n-propylaminoethyl)-2-nitrophenylpyruvate | C(C)OC(C(=O)CC1=C(C=CC=C1CCN(CCC)CCC)[N+](=O)[O-])=O | C19H28N2O5
